US09163012B2
Step 2: (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester
Triphosgene (0.58 g) dissolved in dichloromethane (10 mL) is added dropwise to a solution of adamantane-1,4-diol (1.00 g) and pyridine (10 mL) in dichloromethane (30 mL) cooled to −10° C. The solution is stirred at ca. 0° C. for 2.5 h and then (S)-3-hydroxy-pyrrolidine (0.50 mL) is added. The resulting solution is stirred overnight while warming to room temperature. The solution is then diluted with dichloromethane (50 mL) and chilled in an ice bath. 4 M hydrochloric acid (25 mL) is added and the resulting mixture is stirred for 5 min. The organic phase is separated and washed with 4 M hydrochloric acid and water. The organic phase is dried (MgSO4) and concentrated to give the title compound as a mixture of diastereomers (ca. 1:1). Yield: 0.98 g (59% of theory); Mass spectrum (ESI+): m/z=282 [M+H]+.

reactant | Triphosgene | 0.58 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | adamantane-1,4-diol | 1.00 g | C12(CC3C(C(CC(C1)C3)C2)O)O | C10H16O2
reactant | (S)-3-hydroxy-pyrrolidine | 0.50 mL | O[C@@H]1CNCC1 | C4H9NO
reactant | hydrochloric acid | 4 M, 25 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2C[C@H](CC2)O | C15H23NO4
